.title SN74LS00_sim
.include SN74LS00.cir


V0 Vcc 0 5v

RL l Vcc 2kohm

Rs a Vcc 5500ohm

Vb b 0 dc 0 PULSE(0v 5v 0s 1ms 1ms 1s 2002ms)

* Ry y  0 20k
CL y 0 15pF

XSN74LS00 y a b l 0 SN74LS00

.control
  tran 1ms 8s
  * plot a
  * plot b
  * plot y
.endc
